US06995263B2
A solution of [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol (2.47 g, 7.48 mmol) in dichloromethane (25 ml) was treated with thionylchloride (0.57 ml, 7.85 mmol). After 2 h stirring at RT, the mixture was partitioned between ether and water. The ether-phase was concentrated under reduced pressure to give 2.42 g (7 mmol, 94%) 5-chloromethyl-4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine.

reactant | [4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 7.48 mmol, 2.47 g | COCCC1=NC(=NC(=C1CO)C)C1=CC=C(C=C1)C(F)(F)F | C16H17F3N2O2
reactant | thionylchloride | 7.85 mmol, 0.57 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 7 mmol, 2.42 g, 94% | ClCC=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC | C16H16ClF3N2O
